US05905159
In carrying out the novel process, furan is reacted with water in general in a molar furan/water ratio of from 1:0.1 to 1:100, preferably from 1:0.2 to 1:50, particularly preferably from 1:1 to 1:10, to give 1,4-butanediol/THF. This is effected in the presence of hydrogen and a hydrogenation catalyst at in general 100 kPa-30 MPA (1-300 bar), preferably 500 kPa-20 MPa (5-200 bar), particularly preferably 1-15 MPa (10-150 bar), and at from 20 to 300° C., preferably from 40 to 230° C., particularly preferably from 80 to 200° C.

reactant | furan | O1C=CC=C1 | C4H4O
reactant | furan water | O1C=CC=C1.O
solvent | water | O | H2O
product | 1,4-butanediol THF | C(CCCO)O.C1CCOC1 | InChI=1S/C4H10O2.C4H8O/c5-3-1-2-4-6;1-2-4-5-3-1/h5-6H,1-4H2;1-4H2
